US06436923B1
A. 2-[3-(Phenylmethoxy)phenyl]ethylamine
A solution of 3-benzyloxyphenylacetonitrile (11.50 g, 51.50 mmol) in 100 mL of THF at 0° C. was treated with LiAlH4 (3.90 g, 103 mmol) in several portions over 20 minutes. The reaction mixture was warmed to room temperature and stirred for 30 minutes then it was heated at reflux for 6 h. The suspension was cooled to room temperature and quenched by the slow addition of Na2SO4.10H2O (25 g). The resulting mixture was diluted with 200 mL of CH2Cl2. The organic layer was separated and the remaining salt was rinsed with additional CH2Cl2 (2×50 mL). The combined organic layers were dried over MgSO4, concentrated, and purified by column chromatography (SiO2, hexanes/ethyl acetate, 2:1) to provide the title compound (5.85 g, 51% yield): ES-MS (m/z) 228 [M+H]+.

reactant | 3-benzyloxyphenylacetonitrile | 51.50 mmol, 11.50 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CC#N | C15H13NO
reactant | LiAlH4 | 103 mmol, 3.90 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-[3-(Phenylmethoxy)phenyl]ethylamine | 5.85 g, 51% yield | C1(=CC=CC=C1)COC=1C=C(C=CC1)CCN | C15H17NO
